US05140011
80 mg (0.10 mmol) of t-butyl [(S)-[[(S)-1-[[(1S,2S,4S,E)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-7-(phenethylcarbamoyl)-6-heptenyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]phenethyl]carbamate are dissolved in 1 ml of methanol and, after the addition of 0.015 g of palladium on charcoal (5%), hydrogenated for 7 hours at room temperature and atmospheric pressure. After completion of the hydrogen uptake the catalyst is filtered off and the filtrate is evaporated under reduced pressure, whereby there are obtained 64 mg of t-butyl [(S)-α-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-7-(phenethylcarbamoyl)heptyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]phenethyl]carbamate as an amorphous solid, MS: 801 (M+H)+.

reactant | t-butyl [(S)-[[(S)-1-[[(1S,2S,4S,E)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-7-(phenethylcarbamoyl)-6-heptenyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]phenethyl]carbamate | 0.10 mmol, 80 mg | C1(CCCCC1)C[C@@H]([C@H](C[C@H](C\C=C\C(NCCC1=CC=CC=C1)=O)C(C)C)O)NC(=O)[C@H](CC=1N=CNC1)NC(=O)[C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O | C46H66N6O6
solvent | methanol | 1 ml | CO | CH4O
catalyst | palladium on charcoal | 0.015 g | [Pd] | Pd
product | t-butyl [(S)-α-[[(S)-1-[[(1S,2S,4S)-1-(cyclohexylmethyl)-2-hydroxy-4-isopropyl-7-(phenethylcarbamoyl)heptyl]carbamoyl]-2-imidazol-4-ylethyl]carbamoyl]phenethyl]carbamate | 64 mg | C1(CCCCC1)C[C@@H]([C@H](C[C@H](CCCC(NCCC1=CC=CC=C1)=O)C(C)C)O)NC(=O)[C@H](CC=1N=CNC1)NC(=O)[C@H](CC1=CC=CC=C1)NC(OC(C)(C)C)=O | C46H68N6O6
